US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.31 g) and [(6-dimethylaminopyridin-3-yl)methyl](4-isopropylphenyl)amine (0.24 g) as starting materials, N-[(6-dimethylaminopyridin-3-yl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide was obtained. This was dissolved in ether, and 4 mol/L-hydrochloric acid/dioxane (0.30 mL) was added. The solvent was evaporated. The obtained crude crystals were recrystallized from ethyl acetate-hexane to give N-[(6-dimethylaminopyridin-3-yl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride ½ hydrate (0.43 g). melting point: 158-160° C.

reactant | 7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.31 g | COC1=CC=C2CCCC(C2=C1)C(=O)O | C12H14O3
reactant | [(6-dimethylaminopyridin-3-yl)methyl](4-isopropylphenyl)amine | 0.24 g | CN(C1=CC=C(C=N1)CNC1=CC=C(C=C1)C(C)C)C | C17H23N3
product | N-[(6-dimethylaminopyridin-3-yl)methyl]-N-(4-isopropylphenyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide | CN(C1=CC=C(C=N1)CN(C(=O)C1CCCC2=CC=C(C=C12)OC)C1=CC=C(C=C1)C(C)C)C | C29H35N3O2
